US04931444
To a stirred solution of 10.8 parts of 4-[4-(4-aminophenyl)-1-piperazinyl]phenol in 3.2 parts of pyridine and 90 parts of N,N-dimethylformamide was added dropwise a solution of 3.1 parts of acetyl chloride in 27 parts of methylbenzene at 20° C. (exothermic reaction). Upon completion, stirring was continued for 1 hour at 20° C. The reaction mixture was poured into water while stirring. The product was filtered off, washed with water and dissolved in a mixture of trichloromethane and methanol (3:1 by volume). The whole was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The second fraction was collected and the eluent was evaporated. The residue was crystallized from a mixture of ethanol and methylbenzene (1:1 by volume)+(activated charcoal). The produce was filtered off and dried yielding 5.3 parts (42.5%) of N-[4-[4-(4-hydroxyphenyl)-1-piperazinyl]phenyl]acetamide; mp. 256.2° C. (compound 1.03).

reactant | 4-[4-(4-aminophenyl)-1-piperazinyl]phenol | NC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)O | C16H19N3O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | water | O | H2O
solvent | methylbenzene | CC1=CC=CC=C1 | C7H8
product | N-[4-[4-(4-hydroxyphenyl)-1-piperazinyl]phenyl]acetamide | 42.5% | OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)NC(C)=O | C18H21N3O2
